US06294527B1
7-Fluoro-2-mercapto-4-oxo-4H-1-benzothiopyran(2.12 g, 10.0 mmol), sodium hydride (567.2 mg, 13.0 mmol) and methyl iodide (0.93 ml, 15.0 mmol) were used to conduct the process simiar to (1) of the Preparation 3, thus obtaining 1.40 g (yield: 62%) of 7-fluoro-2-methylthio-4-oxo-4H-1-benzothiopyran as light yellow powder.

reactant | 7-Fluoro-2-mercapto-4-oxo-4H-1-benzothiopyran | 10.0 mmol, 2.12 g | FC1=CC2=C(C(C=C(S2)S)=O)C=C1 | C9H5FOS2
reactant | sodium hydride | 13.0 mmol, 567.2 mg | [H-].[Na+]
reactant | methyl iodide | 15.0 mmol, 0.93 ml | CI | CH3I
product | 7-fluoro-2-methylthio-4-oxo-4H-1-benzothiopyran | 1.40 g, yield: 62% | FC1=CC2=C(C(C=C(S2)SC)=O)C=C1 | C10H7FOS2
